### PR TITLE
Prove isHadamard_H12

### LINKED ISSUE #6036: Hadamard: prove the test isHadamard_H12
`FormalConjectures/Wikipedia/Hadamard.lean` has the `test` declaration `isHadamard_H12 : IsHadamard H12` as `by sorry`.

`H12` has real entries, so `decide` cannot check it directly. Plan: add the integer matrix `H12ℤ` with the same entries, check by `decide` that its entries are `±1` and that `H12ℤᵀ * H12ℤ = 12 • 1`, transport both facts to `H12` through `Int.castRingHom ℝ`, and get `|det H12| = 12^6` from `det(H12ᵀ H12) = 12^12`. This avoids `isHadamard_equiv_isHadamard'`, whose converse is still `sorry`. A pull request follows.

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6036

## What changed

`FormalConjectures/Wikipedia/Hadamard.lean`:

- Add `H12ℤ : Matrix (Fin 12) (Fin 12) ℤ` with the entries of `H12`.
- Add four `API` lemmas: `H12_eq_map` (`H12 = H12ℤ.map (Int.castRingHom ℝ)`), `H12ℤ_entries` (entries are `±1`, by `decide +kernel`), `H12ℤ_transpose_mul` (`H12ℤᵀ * H12ℤ = diagonal 12`, by `decide`), and `H12_transpose_mul` (the real version, by transport).
- Prove the `test` declaration `isHadamard_H12`: entries from `H12ℤ_entries`; `|det H12| = 12^(12/2)` from `det(H12ᵀ H12) = 12^12`.

## Why

The determinant condition in `IsHadamard` is not decidable over `ℝ`, and expanding a `12 × 12` determinant symbolically is not practical. Checking `MᵀM = 12·I` over `ℤ` is a finite computation, and the determinant condition follows from it.

The proof does not use `isHadamard_equiv_isHadamard'`, whose converse direction is still `sorry`, so `isHadamard_H12` depends only on `[propext, Classical.choice, Quot.sound]`.

## How checked

- `lake --wfail build FormalConjectures.Wikipedia.Hadamard` succeeds (about 100 s, mostly the 144-case `fin_cases` in `H12_eq_map`).
- `#print axioms Hadamard.isHadamard_H12`: `[propext, Classical.choice, Quot.sound]`.

## Reviewer notes

- `H12ℤ_entries` is stated over `Fin 12 × Fin 12` because instance search did not find `Decidable` for the nested `∀ i j` form.
- No `native_decide`.

### CODE REVIEW

File: FormalConjectures/Wikipedia/Hadamard.lean [hunk 1]
```diff
@@ -108,12 +108,59 @@ def H12 : Matrix (Fin 12) (Fin 12) ℝ :=
...
+  refine ⟨fun i j => ?_, ?_⟩
+  · rw [H12_eq_map, Matrix.map_apply]
+    rcases H12ℤ_entries (i, j) with h | h <;> simp [h]
+  · have hdet : H12.det ^ 2 = (12 : ℝ) ^ 12 := by
+      have h := congrArg Matrix.det H12_transpose_mul
+      rw [Matrix.det_mul, Matrix.det_transpose, Matrix.det_diagonal] at h
+      simpa [sq] using h
+    rw [← Real.sqrt_sq_eq_abs, hdet, show ((12 : ℝ) ^ 12) = ((12 : ℝ) ^ 6) ^ 2 by norm_num,
+      Real.sqrt_sq (by positivity)]
+    norm_num [show ((12 : ℕ) : ℝ) / 2 = ((6 : ℕ) : ℝ) by norm_num, Real.rpow_natCast]
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Hadamard.lean]:
```suggestion
  have h : H12.transpose * H12 = (12 : ℝ) • 1 := by
    rw [← Matrix.ext_iff]
    norm_num +decide [Fin.forall_fin_succ, Matrix.mul_apply, Fin.sum_univ_succ, H12,
      Matrix.one_apply]
  have hd : H12.det ^ 2 = 12 ^ 12 := by simpa [Matrix.det_smul, ← sq] using congrArg Matrix.det h
  refine ⟨by simp [Fin.forall_fin_succ, H12], ?_⟩
  rw [← Real.sqrt_sq_eq_abs, hd]
  norm_num
```
With this you don't need any of the helper lemmas above!

File: FormalConjectures/Wikipedia/Hadamard.lean [hunk 2]
```diff
@@ -108,12 +108,59 @@ def H12 : Matrix (Fin 12) (Fin 12) ℝ :=
...
+theorem H12ℤ_transpose_mul : H12ℤ.transpose * H12ℤ = Matrix.diagonal (fun _ => 12) := by
+  decide
+
+/-- The columns of `H12` are pairwise orthogonal with squared norm `12`. -/
+@[category API, AMS 15]
+theorem H12_transpose_mul : H12.transpose * H12 = Matrix.diagonal (fun _ => (12 : ℝ)) := by
+  rw [H12_eq_map, ← Matrix.transpose_map, ← Matrix.map_mul, H12ℤ_transpose_mul,
+    Matrix.diagonal_map (by simp)]
+  simp
+
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Hadamard.lean]:
```suggestion
```

**Review by mo271 — COMMENTED** [review]
Thanks!
The proof was a little long, added suggestion for nicer way of doing it

**Comment by Konamiu** [comment]
Applied the suggestion: dropped `H12ℤ` and the four helper lemmas, and `isHadamard_H12` is now the 8-line direct proof. `lake --wfail build FormalConjectures.Wikipedia.Hadamard` succeeds and `#print axioms` is unchanged.

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!
